US05216167
Ethyl 2-ethoxy-4-[N-(α-cyclopropylmethyl-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoate
Prepared analogously to Example 47 from α-cyclopropylmethyl-2-piperidino-benzylamine and 3-ethoxy-4-ethoxycarbonyl-phenylacetic acid.

reactant | α-cyclopropylmethyl-2-piperidino-benzylamine | C1(CC1)CC(C1=C(C=CC=C1)N1CCCCC1)N | C16H24N2
reactant | 3-ethoxy-4-ethoxycarbonyl-phenylacetic acid | C(C)OC=1C=C(C=CC1C(=O)OCC)CC(=O)O | C13H16O5
product | Ethyl 2-ethoxy-4-[N-(α-cyclopropylmethyl-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoate | C(C)OC1=C(C(=O)OCC)C=CC(=C1)CC(=O)NC(C1=C(C=CC=C1)N1CCCCC1)CC1CC1 | C29H38N2O4
